US04307024
1,1,1-Tris-(4-methoxyphenyl)-2,2,2-trifluoroethane.
A solution of 9.0 g (0.044 mol) of 4-methoxy-α,α,α-trifluoroacetophenone, 90 ml of anisole and 5 ml of trifluoromethyl sulfonic acid was stirred for 48 hours. At the end of this period, the product was worked up as in Example 6 to give 14.2 g (80%) of white crystalline 9; m.p. 196°-197° C., IR (KBr) 3010 (C--H, ar), 2840 (OCH3), 1610 and 1510 (Ar), 1150 (C--F) 825 cm-1 (parasubstituted phenyl); NMR δ 3.80 (s, 3H), 6.75 (d, J=8 Hz, 2H); 7.05 (d, J=8 Hz 2H); mass spectrum m/e, 402 (parent ion), 333 (P-69), 163 (P-239), 135 (P-267). Analytical: calculated for C23H2O3F3 ; C, 68.65; H, 5.22; F, 14.2%. Found: C, 68.48; H, 530; F, 14.2%.

reactant | trifluoromethyl sulfonic acid | 5 ml | FC(F)(F)S(=O)(=O)O | CHF3O3S
reactant | KBr | [K+].[Br-]
reactant | P-267 | CCCCOC1=CC=C(C=C1)C(=O)CCN2CCCCC2.Cl
reactant | anisole | 90 ml | C1(=CC=CC=C1)OC | C7H8O
product | 1,1,1-Tris-(4-methoxyphenyl)-2,2,2-trifluoroethane | COC1=CC=C(C=C1)C(C(F)(F)F)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C23H21F3O3
